US06326510B1
2-[3-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acryloylamino]benzoic acid
540 mg (1.38 mmol) of methyl 2-[3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acryloylamino]benzoate, 5 ml of THF and 5 ml of methanol are introduced into a round-bottomed flask. 5.5 ml of methanolic sodium hydroxide solution (2N) are added and the mixture is stirred at room temperature for four hours. The reaction medium is poured into water, acidified to pH 1 with hydrochloric acid and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (95/5). After evaporating the solvents, 400 mg (77%) of the expected acid, with a melting point of 185-6° C., are collected.

reactant | methyl 2-[3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acryloylamino]benzoate | 1.38 mmol, 540 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)NC1=C(C(=O)OC)C=CC=C1)C | C25H29NO3
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2N, 5.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 2-[3-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acryloylamino]benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)NC1=C(C(=O)O)C=CC=C1)C | C24H27NO3
